US07432282B2
1.1 1.3 g of ethyl 5-bromonicotinate are initially introduced in 40 ml of tert-butanol, and 427 mg of sodium borohydride are added. The entire mixture is heated under reflux (100° C.) and under N2 for one hour. 6 ml of methanol are then added. The mixture is stirred overnight. 10 ml of water is added to the reaction solution. The mixture is then extracted with dichloromethane, dried using sodium sulfate and evaporated in a rotary evaporator, giving 300 mg of (5-bromopyridin-3-yl)methanol.

reactant | ethyl 5-bromonicotinate | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | sodium borohydride | 427 mg | [BH4-].[Na+]
reactant | methanol | 6 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | (5-bromopyridin-3-yl)methanol | 300 mg | BrC=1C=C(C=NC1)CO | C6H6BrNO
